US08703795B2
a) 4-Hydroxy-7-phenyl-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester
A mixture of 7-bromo-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester (example 43 a, 165 mg, 0.5 mmol), phenylboronic acid (94 mg, 0.75 mmol), tetrakis(triphenylphosphine) palladium(0) (59 mg, 0.05 mmol), potassium carbonate (208 mg, 1.5 mmol), and anhydrous 1.4-dioxane (3 ml) was heated in a microwave oven at 140° C. for 15 min. Then silica gel was added and the mixture concentrated in vacuo. The residue was added on top of a short column filled with silica gel. Elution with ethyl acetate:hexanes=9:1 and in vacuo concentration gave the title compound as a yellowish oil (95 mg); MS-(+)-ion: MS-(+)-ion: M+1=328.0.

reactant | 7-bromo-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SC=C2)O | C12H12BrNO3S
reactant | phenylboronic acid | 0.75 mmol, 94 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 1.5 mmol, 208 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.05 mmol, 59 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1.4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-7-phenyl-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | 95 mg | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C1=CC=CC=C1)SC=C2)O | C18H17NO3S
